US07214673B2
N-(2,4-Dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2,2,2-trifluoro-acetamide
Add 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (7.67 g, 40.0 mmol), and 4-(dimethylamino)pyridine (0.244 g, 2.00 mmol) to a solution of 3-amino-1,5-dihydro-benzo[b][1,4]diazepine-2,4-dione (7.65 g, 40.0 mmol) in anhydrous N,N-dimethylformamide (50 mL). Rinse solids into reaction with anhydrous N,N-dimethylformamide (50 mL), and cool reaction to 0° C. in an ice/water bath. Add via syringe trifluoroacetic acid (3.08 mL, 40.0 mmol). After 10 minutes, remove cooling, and after 5.5 hours at ambient temperature, add an additional 0.2 equivalents of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.53 g) and trifluoroacetic acid (0.62 mL) and stir at ambient temperature. After an overnight period, concentrate under reduced pressure to give a residue. Reconstitute the residue in isopropanol: chloroform (1:3, 20 mL) and set 5 minutes. Collect solid formed by suction filtration, wash with isopropanol: chloroform (3:1), and dry at ambient temperature under vacuum to give the title compound. Filter the filtrate, which contained precipitated solid and dry this solid at ambient temperature under vacuum to give a second crop of the title compound: mass spectrum (ES neg., m/e): 286.0 (M−1); 1H NMR (300 MHz, DMSO-d6): 10.93 (s, 2H), 9.42 (d, 1H, J=6.9 Hz), 7.29–7.15 (m, 4H), 4.91 (d, 1H, J=7.2 Hz).

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 40.0 mmol, 7.67 g | Cl.CN(CCCN=C=NCC)C
reactant | 3-amino-1,5-dihydro-benzo[b][1,4]diazepine-2,4-dione | 40.0 mmol, 7.65 g | NC1C(NC2=C(NC1=O)C=CC=C2)=O | C9H9N3O2
reactant | trifluoroacetic acid | 40.0 mmol, 3.08 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.53 g, 0.2 equivalents | Cl.CN(CCCN=C=NCC)C
reactant | trifluoroacetic acid | 0.62 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | 4-(dimethylamino)pyridine | 2.00 mmol, 0.244 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | isopropanol chloroform | 20 mL | C(C)(C)O.C(Cl)(Cl)Cl
product | N-(2,4-Dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2,2,2-trifluoro-acetamide | O=C1C(C(NC2=C(N1)C=CC=C2)=O)NC(C(F)(F)F)=O | C11H8F3N3O3
